Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Superior sulcus tumor, right side.

 
Major Surgical or Invasive Procedure:
___ Right thoracotomy, en bloc chest wall resection with 
right upper lobectomy, mediastinal lymph node lymphadenectomy.

 
History of Present Illness:
Mr. ___ is a ___ male who was discovered to have a 
superior sulcus tumor on his right side. The patient had 
preoperative symptoms of muscle wasting
in his forearm and hand and pain. The patient had been 
discovered to have, on serial imaging, a superior sulcus tumor 
on the right side. A mediastinoscopy had been performed 
preoperatively which was negative. The patient was treated
with neoadjuvant chemoradiation therapy and then referred for 
surgery. After discussion with the patient and review of his 
postoperative imaging, it was decided to proceed with 
thoracotomy and resection of the mass.

 
Past Medical History:
Biopsy-proven adenocarcinoma of the RUL c/w a Pancoast tumor, 
s/p chemoradiation neoadjuvant therapy, finishing on ___  
Mild C3-C7 cervical stenosis, sciatica
Osteoarthritis, hyperlipidemia
PAST SURGICAL HISTORY:  Knee surgery to repair torn cartilage,
left shoulder surgery for arthritis, titanium implant in the
first toe of the left foot because of arthritis.

 
Social History:
___
Family History:
Father died of lung cancer at age ___. Mother died at age ___

 
Physical Exam:
VS: T 99.9  HR 80-90's SR   BP: 108/68   Sats: 96% RA
General: ___ year-old male in no apparent distress
HEENT: normocephalic, mucus membranes moist
Neck: supple,
Card: RRR, normal S1,S2
Resp: CTA (B)
GI: benign
Extr: warm
Incision: Right thoracotomy clean, dry intact with steri-strips 
no erythema
Neuro: AA&Ox3, Pupils R 3.0mm, L 3.5mm,  mild R ptosis, CN 
II-XII: intact, strengths ___ throughout, right arm warmer 
than left

 
Pertinent Results:
___ WBC-3.4* RBC-3.05* Hgb-10.0* Hct-27.9* Plt ___
___ WBC-6.4# RBC-3.66* Hgb-11.4* Hct-33.5* Plt ___
___ Glucose-133* UreaN-11 Creat-0.9 Na-135 K-4.0 Cl-100 
HCO3-___ 
 
Pathology
SPECIMEN SUBMITTED: ___ right upper lobe, posterior aspect of 
first rib, 11R lymph nodes, 12R lymph nodes, level 7 lymph 
nodes, 4R lymph nodes, 2R lymph nodes.
DIAGNOSIS: 
  I.  Posterior aspect of 1st rib (A):
No carcinoma seen.
 II.  12R lymph nodes (B):
Multiple lymph node fragments, no carcinoma seen.
III.  11R lymph nodes (C):
Multiple lymph node fragments, no carcinoma seen.
IV.  Level 7 lymph nodes (D):
One lymph node, no carcinoma seen.
 V.  4R lymph nodes (E):
Multiple lymph node fragments, no carcinoma seen.
VI.  2R lymph nodes (F):
One lymph node, no carcinoma seen.
VII.  Lung, right upper lobe, lobectomy and partial chest wall 
resection (G-P):
a.  No residual viable tumor seen.
Part 7 is additionally labeled "right upper lobe" and consists 
of a lung lobectomy with partial chest wall resection which 
measures 18 x 12 x 7 cm. The portion of lung measures 15 x 10 x 
6 cm and the portion of chest wall which includes segments of 
ribs 1, 2, 3, 4 measures 9 x 8 x 2.5 cm. There is a long stitch 
indicating the T1 nerve root and a short stitch indicating the 
posterior chest wall margin. The segment of lung is grossly 
adherent to the internal surface of the chest wall.  The segment 
of lung is sectioned to reveal a firm gray white mass measuring 
2.8 cm in greatest dimension and grossly abutting the soft 
tissues of the internal chest wall at the area of adhesion.  No 
gross invasion of tumor into ribs is identified.  The area 
marked as the posterior chest wall margin is grossly free of 
tumor.  The remainder of the lung parenchyma is grossly 
unremarkable.  

CHEST (PA & LAT)  ___ 
FINDINGS: Three views of the chest are compared to ___. 
The final right apical chest tube has been removed and there is 
a small persistent right apical pneumothorax that is unchanged 
or slightly decreased in size. Relatively clear. The pulmonary 
vasculature is normal. The heart and mediastinal contours are 
stable. Small subcutaneous emphysema continues to improve.
IMPRESSION: Persistent stable/slightly improved right apical 
pneumothorax status post final chest tube removal.

 
Brief Hospital Course:
Mr. ___ was admitted on ___ and underwent successful 
Right thoracotomy, en bloc chest wall resection with right upper 
lobectomy, mediastinal lymph node
lymphadenectomy.  He was monitored in the PACU prior to transfer 
to the floor with 2 chest tubes and a foley in place.  His pain 
was well controlled via a Bupivacaine epidural and Dilaudid PCA 
managed by the acute pain service.  On POD #1 he was transfused 
with 2 units of PRBC for a HCT of 25 to a HCT of 33.  The chest 
tubes were found to have an air leak and remained on wall 
suction. His diet was advanced as tolerated. On POD #2 the 
chest-tubes were placed to water seal with a persistent air leak 
which was followed by serial chest x-rays.  POD ___ the 
chest-tube remained, his pain was well controlled and he 
ambulated in the halls.  On POD #5 the anterior chest-tube was 
removed, the Dilaudid PCA was converted to PO pain meds.  On POD 
#6 the epidural and foley were removed. On POD #7 the remainder 
chest-tube was removed and his CXR revealed a small persistent 
stable right apical pneumothorax.  His RA saturations were 96%.  
His pain was not well managed with PO Dilaudid and was changed 
to OxyContin & Oxycodone with good results. He was constipated 
and given multiple laxatives with good results. CXR revealed 
right pleural effusion which was tapped for 200cc. his cough was 
productive for thick brown sputum and WBC rose from 13 to 18. He 
was started on levaquin. WBC decreased to 12.3 and remianed 
afebrile. He was discharged to home on POD #10.  He will 
follow-up with ___ NP in ___ in one week to assess pul 
status and wound check.

 
Medications on Admission:
Oxycontin 20 mg qam & 40 mg qpm, Percocet PRN for breakthrough 
pain
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
3. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
4. Ferrous Gluconate 325 mg (37.5 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
5. Ibuprofen 400 mg Tablet Sig: Two (2) Tablet PO Q8H (every 8 
hours): take with food & Water.  
6. Oxycodone 20 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO Q12H (every 12 hours).
Disp:*30 Tablet Sustained Release 12 hr(s)* Refills:*0*
7. Oxycodone 5 mg Tablet Sig: Two (2) Tablet PO Q4H (every 4 
hours) as needed.
Disp:*75 Tablet(s)* Refills:*0*
8. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day: continue while 
take motrin.
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
9. Mucinex ___ mg Tablet Sustained Release Sig: Two (2) Tablet 
Sustained Release PO twice a day: for congestions.
Disp:*30 Tablet Sustained Release(s)* Refills:*2*
10. Levofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 8 days.
Disp:*8 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Pancoast tumor s/p chemoradiation neoadjuvant therapy
Mild C3-C7 cervical stenosis, sciatica  

 
Discharge Condition:
good
 
Discharge Instructions:
Call Dr. ___ ___ if experience:
-Fever > 101 or chills
-Increased shortness of breath or cough
-Incision develops drainage or redness
Chest-Tube site cover with a bandaid until healed. Should site 
begin to drain cover with a dry dressing and change as needed to 
keep site clean and dry.
You may shower: no tub bathing or swimming for 6 weeks
No driving while taking narcotics: Take stool softners with 
narcotics.
Motrin take with food and water.
 
Followup Instructions:
___